US08207174B2
4-(3-(1-(4,6-dimethylpyrimidin-2-yl)piperidin-4-ylamino)-2-hydroxypropoxy)phenol
Synthesis followed SP6 (iPrOH:DMSO 1:1, 120° C., 35 h), using 200 μmol tert-butyldimethyl(4-(oxiran-2-ylmethoxy)phenoxy)silane and 1-(4,6-dimethylpyrimidin-2-yl)piperidin-4-amine to give O-silylated intermediate upon purification by prep. HPLC (reversed phase) and prep. TLC (1 mm silica gel, PE/CH2Cl2/MeOH 6:4:1) with 64% yield. Product was obtained by deprotection according to SP7 and purification by prep. HPLC (reversed phase) and prep. TLC (1 mm silica gel, PE/CH2Cl2/MeOH 3:7:1.5) with 10% yield.

reactant | tert-butyldimethyl(4-(oxiran-2-ylmethoxy)phenoxy)silane | 200 μmol | C(C)(C)(C)[Si](OC1=CC=C(C=C1)OCC1OC1)(C)C | C15H24O3Si
reactant | 1-(4,6-dimethylpyrimidin-2-yl)piperidin-4-amine | CC1=NC(=NC(=C1)C)N1CCC(CC1)N | C11H18N4
solvent | iPrOH DMSO | CC(C)O.CS(=O)C
product | 4-(3-(1-(4,6-dimethylpyrimidin-2-yl)piperidin-4-ylamino)-2-hydroxypropoxy)phenol | 64% yield | CC1=NC(=NC(=C1)C)N1CCC(CC1)NCC(COC1=CC=C(C=C1)O)O | C20H28N4O3
